US04685958
Ethyl N-acetylacetimidate
A slurry of 50.0 gm (405 mmol) of ethyl acetimidate hydrochloride in 500 ml of methylene chloride was mechanically stirred and treated dropwise with 81.9 gm (809 mmol) of triethylamine while keeping the temperature at less than 25° C. The resulting slurry was then treated dropwise with 31.8 gm (405 mmol) of acetyl chloride while keeping the temperature at less than 30° C. The white slurry was stirred for one hour at room temperature, after which the methylene chloride was removed in vacuo. The white, oily mass obtained was then stirred with 400 ml of ether and filtered. The white solid obtained was washed with additional ether and the combined filtrate was concentrated in vacuo to afford 48.6 gm (93 percent) of a pale, yellow oil. IR and NMR spectra were consistent with the assigned structure.

reactant | ethyl acetimidate hydrochloride | 405 mmol, 50.0 gm | Cl.C(C)(OCC)=N
reactant | triethylamine | 809 mmol, 81.9 gm | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 405 mmol, 31.8 gm | C(C)(=O)Cl | C2H3ClO
reactant | ether | 400 ml | CCOCC | C4H10O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | Ethyl N-acetylacetimidate | C(C)(=O)N=C(C)OCC | C6H11NO2
